US07820699B2
60.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 4,5-dibromo-1H-pyrrole-2-carboxylic acid to give (R)-3-{[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. Pale yellow solid. MS449.9 ([M−H]−)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4,5-dibromo-1H-pyrrole-2-carboxylic acid | BrC=1C=C(NC1Br)C(=O)O | C5H3Br2NO2
product | (R)-3-{[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(=O)C=1NC(=C(C1)Br)Br | C15H21Br2N3O3
